*MC1496 ON Semiconductor Applications
.SUBCKT MC1496 VS+ GAIN2 GAIN3 VS- Bias VO+ NC VEE NC VO- NC VC- NC VC+

R3          11 VEE 500 
R2          12 VEE 500 
R1          13 VEE 500 
QT9         Bias Bias 13  Q_JS04_N_1 
QT8         GAIN2 Bias 11  Q_JS04_N_1 
QT7         GAIN3 Bias 12  Q_JS04_N_1 
QT6         14 VS+ GAIN2  Q_JS04_N_1 
QT5         VO- VC+ 14  Q_JS04_N_1 
QT4         VO+ VC- 14  Q_JS04_N_1 
QT3         15 VS- GAIN3  Q_JS04_N_1 
QT2         VO- VC- 15  Q_JS04_N_1 
QT1         VO+ VC+ 15  Q_JS04_N_1 

.MODEL Q_JS04_N_1 NPN( IS=9.99F NF=1 NR=1 RE=2.51 RC=1 
+      RB=10 VAF=40 VAR=20 ISE=4.03P ISC=4.03P 
+      ISS=0 NE=1.78 NC=1.78 NS=1 BF=679 
+      BR=5 IKF=13.8M IKR=13.8M CJC=3.6P CJE=3.99P 
+      CJS=0 VJC=878M VJE=16.1 VJS=750M MJC=307M 
+      MJE=2.01 MJS=0 TF=531P TR=69N EG=1.11 
+      KF=0 AF=1 )

.END

.ends
